US04086347
50 ml of n-propylamine are added to a solution of 11.6 g (0.03 mole) of 6-chloro-9-[3-(4-phenoxymethylpiperidino)-propyl]-purine in 100 ml of n-propanol and the reaction mixture is heated under reflux for 6 hours. It is then evaporated in a vacuum and the residue extracted with diethyl ether. After evaporation of the solvent and recrystallization of the residue from cyclohexane, there are obtained 9.1 g of N6 -n-propyl-9-[3-(4-phenoxymethylpiperidino)-propyl]-adenine (74% of theory); m.p. 62° - 63° C.

reactant | n-propylamine | 50 ml | C(CC)N | C3H9N
reactant | 6-chloro-9-[3-(4-phenoxymethylpiperidino)-propyl]-purine | 0.03 mole, 11.6 g | ClC1=C2N=CN(C2=NC=N1)CCCN1CCC(CC1)COC1=CC=CC=C1 | C20H24ClN5O
solvent | n-propanol | 100 ml | C(CC)O | C3H8O
product | N6 -n-propyl-9-[3-(4-phenoxymethylpiperidino)-propyl]-adenine | 9.1 g, 74% | C(CC)NC1=C2N=CN(C2=NC=N1)CCCN1CCC(CC1)COC1=CC=CC=C1 | C23H32N6O
